US07329658B2
Preparation of Intermediate N-[5-(2-Chlorophenyl)-2H-pyrazol-3-yl]-acetamidine (I-1A-1b)
To a stirred mixture of 2 M aqueous NaOH (75 mL, 152 mol) and 2-methyltetrahydrofuran (155 ml) was added N-[5-(2-chlorophenyl)-2H-pyrazol-3-yl]-acetamidine, acetate salt (I-1A-1a; 11.5 g, 39.0 mmol), portionwise, over 15 minutes at room temperature. The organic layer was separated, washed with brine (75 ml), and then concentrated to one half volume, at which time a precipitate begins to form. The stirred mixture was diluted with MTBE (70 mL), cooled to −5° C. in an ice/brine bath for 1 hour, and the resulting precipitate collected on a course sintered glass funnel. The solid was washed with ice cold MTBE (50 mL) and then dried, in vacuo, to afford intermediate I-1A-1b as a solid (5.74 g, 63%): +ESI MS (M+1) 235.3; 1H NMR (400 MHz, CD3OD) δ 7.56-7.53 (m, 1H), 7.48-7.44 (m, 1H), 7.36-7.28 (m, 2H), 6.27 (s, 1H), 2.04 (s, 3H).

reactant | NaOH | 152 mol, 2 M, 75 mL | [OH-].[Na+]
reactant | 2-methyltetrahydrofuran | 155 ml | CC1OCCC1 | C5H10O
reactant | N-[5-(2-chlorophenyl)-2H-pyrazol-3-yl]-acetamidine, acetate salt | 39.0 mmol, 11.5 g | C(C)(=O)O.ClC1=C(C=CC=C1)C=1C=C(NN1)NC(C)=N
solvent | MTBE | 70 mL | CC(C)(C)OC | C5H12O
product | N-[5-(2-Chlorophenyl)-2H-pyrazol-3-yl]-acetamidine | 5.74 g, 63% | ClC1=C(C=CC=C1)C=1C=C(NN1)NC(C)=N | C11H11ClN4
